US08871361B2
Synthesis of 1-(3,5-diisopropyl-[1,1′-biphenyl]-4-yl)-2-(3-iodophenyl)-1H-imidazole
The title compound was prepared from N-(3,5-diisopropyl-[1,1′-biphenyl]-4-yl)-3-iodobenzamide and 2,2-dimethoxyethanamine in substantially the same manner, as described in Synthesis of 1-(3,5-diisopropyl-[1,1′-biphenyl]-4-yl)-2-(3-methoxyphenyl)-1H-imidazole.

reactant | N-(3,5-diisopropyl-[1,1′-biphenyl]-4-yl)-3-iodobenzamide | C(C)(C)C=1C=C(C=C(C1NC(C1=CC(=CC=C1)I)=O)C(C)C)C1=CC=CC=C1 | C25H26INO
reactant | 2,2-dimethoxyethanamine | COC(CN)OC | C4H11NO2
reactant | 1-(3,5-diisopropyl-[1,1′-biphenyl]-4-yl)-2-(3-methoxyphenyl)-1H-imidazole | C(C)(C)C=1C=C(C=C(C1N1C(=NC=C1)C1=CC(=CC=C1)OC)C(C)C)C1=CC=CC=C1 | C28H30N2O
product | 1-(3,5-diisopropyl-[1,1′-biphenyl]-4-yl)-2-(3-iodophenyl)-1H-imidazole | C(C)(C)C=1C=C(C=C(C1N1C(=NC=C1)C1=CC(=CC=C1)I)C(C)C)C1=CC=CC=C1 | C27H27IN2
